US06187914B1
3) Synthesis of 5′-O-p-Nitrobenzoyl-6-N-Phenoxyacetyldeoxyadenosine
The synthesis of this product is carried out by reacting 1.1 eq of p-nitrobenzoyl chloride with 6-N-phenoxyacetyldeoxyadenosine for 4 hours in pyridine. After hydrolysis of the excess reagent, almost complete evaporation of the pyridine, and ethyl acetate/sodium bicarbonate extraction, the ethyl acetate phase is evaporated to dryness. The product is obtained by column chromatography with a gradient of methanol in chloroform (elution 4% methanol).

reactant | p-nitrobenzoyl chloride | 1.1 eq | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 6-N-phenoxyacetyldeoxyadenosine | O(C1=CC=CC=C1)CC(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C18H19N5O5
reactant | ethyl acetate sodium bicarbonate | C(C)(=O)OCC.C([O-])(O)=O.[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5′-O-p-Nitrobenzoyl-6-N-Phenoxyacetyldeoxyadenosine | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2[C@H](C[C@@H](O2)N2C=NC=3C(NC(COC4=CC=CC=C4)=O)=NC=NC23)O)C=C1 | C25H22N6O8
